US06956052B2
8-[(2-chloroisonicotinoyl)amino]-1-(4-fluorophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
This material was prepared from Example 244 (8-amino-1-(4-fluorophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide) and 2-chloroisonicotinic acid by the method described for Example 246 step 3.

reactant | 8-amino-1-(4-fluorophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | NC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)F)C(=O)N)C=C1 | C18H15FN4O
reactant | 2-chloroisonicotinic acid | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
product | 8-[(2-chloroisonicotinoyl)amino]-1-(4-fluorophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | ClC=1C=C(C(=O)NC2=CC3=C(CCC=4C(=NN(C34)C3=CC=C(C=C3)F)C(=O)N)C=C2)C=CN1 | C24H17ClFN5O2
